US08278328B2
Description 78. 3-Bromo-4-[(phenylmethyl)oxy]benzonitrile. (D78)
To a solution of 3-bromo-4-hydroxybenzonitrile (60 g, 303 mmol) in acetone (600 mL) under nitrogen, potassium carbonate (62.8 g, 455 mmol) was added followed by potassium iodide (0.503 g, 3.03 mmol). To the mixture benzyl chloride (49.3 mL, 424 mmol) was added dropwise and the mixture was heated at 50° C. (48° C. internal temp) for 16 h. Reaction mixture was cooled down to room temperature, taken up with water (500 mL)/Et2O (1 L). Phases were separated and the aqueous phase back extracted with Et2O (2×500 mL). Combined organics were washed with NaHCO3 saturated solution (400 mL), then with 1M HCl solution (400 mL) and brine. Crude solution was then dried over Na2SO4 and evaporated under reduced pressure to give crude material (110 g) as brown solid that was triturated with c-hex (500 mL) for 30 min. The solid was collected by filtration and washed with c-hex/EtOAc 9/1 (200 mL). Evaporation of residual solvents under high vacuum afforded title material (75.5 g; 261 mmol; 86%) as pale brown solid.

reactant | 3-bromo-4-hydroxybenzonitrile | 303 mmol, 60 g | BrC=1C=C(C#N)C=CC1O | C7H4BrNO
reactant | potassium carbonate | 455 mmol, 62.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl chloride | 424 mmol, 49.3 mL | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | water | 500 mL | O | H2O
solvent | acetone | 600 mL | CC(=O)C | C3H6O
catalyst | potassium iodide | 3.03 mmol, 0.503 g | [I-].[K+]
solvent | Et2O | 1 L | CCOCC | C4H10O
product | 3-Bromo-4-[(phenylmethyl)oxy]benzonitrile | 261 mmol, 75.5 g, 86% | BrC=1C=C(C#N)C=CC1OCC1=CC=CC=C1 | C14H10BrNO
